US08022205B2
5-{2-Morpholin-4-yl-7-[3-(piperazine-1-sulfonyl)-phenyl]-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-ylamine (D-132)
From 4-(3-bromo-benzenesulfonyl)-piperazine-1-carboxylic acid tert-butyl ester (prepared from 3-bromobenzenesulfonyl chloride and piperazine-1-carboxylic acid tert-butyl ester, 83 mg) instead of 1-(3-bromo-benzenesulfonyl)-4-ethyl-piperazine in Example 1-D-96, a crude product of 4-[3-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-benzenesulfonyl]-piperazine-1-carboxylic acid tert-butyl ester was obtained, and then the PMB groups and BOC group were removed according to the above Deprotection method 1, to obtain the desired compound (D-132) as a yellow powder (32 mg, 33%).

reactant | 4-(3-bromo-benzenesulfonyl)-piperazine-1-carboxylic acid tert-butyl ester | 83 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC(=CC=C1)Br | C15H21BrN2O4S
reactant | 4-[3-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-benzenesulfonyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC(=CC=C1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2 | C45H53N9O7S
product | 5-{2-Morpholin-4-yl-7-[3-(piperazine-1-sulfonyl)-phenyl]-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-ylamine | 32 mg, 33% | N1(CCOCC1)C=1N=C(C2=C(N1)N(CC2)C2=CC(=CC=C2)S(=O)(=O)N2CCNCC2)C=2C=NC(=NC2)N | C24H29N9O3S
